US05319096
c. 2-[2-(2-Fluorobenzoyl)-3-methyl-1H-indol-1-yl]-1H-isoindole-1,3-(2H)dione
A solution of 0.91 ml of 2-fluorobenzoyl chloride in 50 ml of dry DCM was cooled in an ice/salt bath. To the solution was added 0.86 ml (1.91 g) of tin (IV) chloride. The mixture was stirred at -5° to 0° C. for 10 minutes after which was added 2.0 g of 2-(3-methyl-1H-indol-1-yl)-1H-isoindole-1,3-(2H)dione. The reaction mixture was stirred at 0° C. for 1 hour, allowed to warm to room temperature, cooled again in an ice bath, poured onto ice, extracted twice with ethyl acetate, washed with water, brine, dried (Na2SO4), filtered and concentrated to a green-yellow solid (2.67 g). The solid was chromatographed on silica gel, eluting with 15% acetone/heptane to provide 1.99 g of a solid, which was recrystallized from ethanol, m.p. 197°-199° C.

reactant | 2-fluorobenzoyl chloride | 0.91 ml | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
reactant | tin (IV) chloride | 0.86 ml, 1.91 g | [Sn](Cl)(Cl)(Cl)Cl
reactant | 2-(3-methyl-1H-indol-1-yl)-1H-isoindole-1,3-(2H)dione | 2.0 g | CC1=CN(C2=CC=CC=C12)N1C(C2=CC=CC=C2C1=O)=O | C17H12N2O2
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-[2-(2-Fluorobenzoyl)-3-methyl-1H-indol-1-yl]-1H-isoindole-1,3-(2H)dione | 1.99 g | FC1=C(C(=O)C=2N(C3=CC=CC=C3C2C)N2C(C3=CC=CC=C3C2=O)=O)C=CC=C1 | C24H15FN2O3
